US04810769
A two liter autoclave was charged with 65.0 g of N,N-bis(2-methoxyethyl)-2,4-dinitrobenzamide, 1000 ml of methanol and 2.7 g of a 5% palladium on carbon/50% water catalyst. The mixture was hydrogenated at 800 psi hydrogen pressure while maintaining the temperature between 60°-100° C. Hydrogen uptake ceased after 30 min. The mixture was cooled, filtered, and the methanol removed at reduced pressure to give 53.2 g of N,N-bis(2-methoxyethyl)-2,4-diaminobenzamide, a red-brown viscous liquid.

reactant | N,N-bis(2-methoxyethyl)-2,4-dinitrobenzamide | 65.0 g | COCCN(C(C1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-])=O)CCOC | C13H17N3O7
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | [Pd] | Pd
solvent | methanol | 1000 ml | CO | CH4O
product | N,N-bis(2-methoxyethyl)-2,4-diaminobenzamide | 53.2 g | COCCN(C(C1=C(C=C(C=C1)N)N)=O)CCOC | C13H21N3O3
